US05196434
Using the procedure described in Example 19, but replacing 1-chloro-2-bromoethane by 1-chloro-3-bromopropane and 3-methyl-6-[2-(N-methylamino)ethyl]benzothiazolinone by 3-methyl-6-[2-(N-n-propylamino) ethyl]-benzothiazolinone, 3-methyl-6-{2-[N-methyl-N-(3-aminopropyl)amino]ethyl} benzothiazolinone is obtained, which product is treated as in Example 20 with tosyl chloride to yield the product of the title.

reactant | 1-chloro-3-bromopropane | ClCCCBr | C3H6BrCl
reactant | 3-methyl-6-[2-(N-methylamino)ethyl]benzothiazolinone | CN1CS(C2=C1C=CC(=C2)CCNC)=O | C11H16N2OS
reactant | 3-methyl-6-[2-(N-n-propylamino) ethyl]-benzothiazolinone | CN1CS(C2=C1C=CC(=C2)CCNCCC)=O | C13H20N2OS
product | 3-methyl-6-{2-[N-methyl-N-(3-aminopropyl)amino]ethyl} benzothiazolinone | CN1CS(C2=C1C=CC(=C2)CCN(CCCN)C)=O | C14H23N3OS
